US04983740
(R)-2-Phenyl-2-methoxyethanol
72 g of (R)-2-phenyl-2-methoxyacetic acid (prepared according to the method described in J. Chem. Soc., 1962, p. 1519), are reduced with 16.5 g of lithium aluminum hydride in 300 ml of tetrahydrofuran.

reactant | (R)-2-phenyl-2-methoxyacetic acid | 72 g | C1(=CC=CC=C1)[C@H](C(=O)O)OC | C9H10O3
reactant | lithium aluminum hydride | 16.5 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | (R)-2-Phenyl-2-methoxyethanol | C1(=CC=CC=C1)[C@H](CO)OC | C9H12O2
